US05817599
Synthesis of 4-octadecylsemicarbazide
20.0 Grams of hydrazine monohydrate and 200 ml of ethanol were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and stirred with ice cooling. To the resulting solution was slowly added dropwise 14.8 g of octadecyl isocyanate. After completion of the addition, the temperature was returned to room temperature, followed by stirring for 1 hour, and the precipitated crystal was filtered off under reduced pressure and was recrystallized from ethanol to obtain 8.2 g of the desired product. m.p. 100° C.

reactant | hydrazine monohydrate | O.NN
reactant | octadecyl isocyanate | 14.8 g | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-octadecylsemicarbazide | 8.2 g | C(CCCCCCCCCCCCCCCCC)NC(NN)=O | C19H41N3O
